US06599917B1
c) 2-(4-Methoxybenzyl)-6-methyl-3-pyridyl Trifluoromethanesulfonate
A mixture of 160 mg of 3-hydroxy-2-(4-methoxybenzyl)-6-methylpyridine, 300 mg of N-phenyltrifluoromethanesulfonimide, 146 μl of triethylamine, 26 mg of 4-dimethylaminopyridine and 5.0 ml of dichloromethane was stirred at room temperature for 2 hours. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. The residue was subjected to NH-silica gel (Fuji silicia) column chromatography to elute with hexane and then with hexane/ethyl acetate (2:1), to give 230 mg of the target compound.

reactant | 3-hydroxy-2-(4-methoxybenzyl)-6-methylpyridine | 160 mg | OC=1C(=NC(=CC1)C)CC1=CC=C(C=C1)OC | C14H15NO2
reactant | N-phenyltrifluoromethanesulfonimide | 300 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | triethylamine | 146 μl | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 26 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | Water | O | H2O
product | 2-(4-Methoxybenzyl)-6-methyl-3-pyridyl Trifluoromethanesulfonate | 230 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)C)CC1=CC=C(C=C1)OC)(F)F | C15H14F3NO4S
